US07517875B2
After dissolving 4-aminomethylpiperidine (5.00 g, 43.8 mmol) in toluene (90 mL), benzaldehyde (4.45 mL, 43.8 mmol) was added, a Dean-Stark trap was fitted, and the mixture was heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, di-t-butyl dicarbonate (11.5 mL, 43.8 mmol) was added in 5 divided portions, and the mixture was stirred at room temperature for 4 hours. After concentrating the reaction mixture under reduced pressure, an aqueous potassium hydrogen sulfate solution (1.0 M, 70 mL, 70 mmol) was added in an ice bath, and the mixture was vigorously stirred for 1 hour. It was then washed with diethyl ether (30 mL×2 times), and 2N aqueous sodium hydroxide was added to the aqueous layer to adjust the pH to approximately 7. The aqueous solution was adjusted to a pH of approximately 7 and then washed with ethyl acetate (30 mL×3 times), and 2N sodium hydroxide was added to the aqueous layer to adjust the pH to approximately 12. The aqueous solution was then adjusted to a pH of approximately 12 and extracted with ethyl acetate (50 mL×4 times), after which the obtained organic layer was dried over anhydrous magnesium sulfate. It was then concentrated under reduced pressure to obtain 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-aminomethylpiperidine | 43.8 mmol, 5.00 g | NCC1CCNCC1 | C6H14N2
reactant | benzaldehyde | 43.8 mmol, 4.45 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | di-t-butyl dicarbonate | 43.8 mmol, 11.5 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulfate | 70 mmol, 1.0 M, 70 mL | S(=O)(=O)(O)[O-].[K+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
